US07683060B2
Step 2. methyl 2-fluoro-4-(oxoacetyl)benzoate
A mixture of methyl 4-acetyl-2-fluorobenzoate (1.6 g, 0.0082 mol), 48% of hydrogen bromide aqueous solution (2.8 mL) in dimethyl sulfoxide (20 mL) was stirred at 60° C. overnight. After cooling, the mixture was poured into ice-water. The product was extracted with ethyl ether. The combined extracts were washed with brine; dried over Na2SO4, filtered concentrated to yield 1.60 g of the product which was directly used in the next step without further purification.

reactant | methyl 4-acetyl-2-fluorobenzoate | 0.0082 mol, 1.6 g | C(C)(=O)C1=CC(=C(C(=O)OC)C=C1)F | C10H9FO3
reactant | hydrogen bromide | 2.8 mL | Br | BrH
reactant | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
product | methyl 2-fluoro-4-(oxoacetyl)benzoate | 1.60 g | FC1=C(C(=O)OC)C=CC(=C1)C(C=O)=O | C10H7FO4
